US04297439
(a) 2-ethylmercapto cyclohexanol
Following the addition of 4 ml of DBN (1,5-diazabicyclo-[4,3,0]-non-5-ene), 98.1 g (1 mole) of cyclohexane oxide (Aldrich) were added dropwise to 65 g of ethane thiol (1.05 moles) in 300 ml of methanol. The mixture was kept under reflux overnight in a steam bath, the reflux temperature rising from 325° K. to 338° K. After adjustment to pH~8 with carbon dioxide, the methanol was distilled off and the residue was fractionated in vacuo.

reactant | DBN | 4 ml | N12CCCN=C2CCC1 | C7H12N2
reactant | cyclohexane oxide | 1 mole, 98.1 g | C1CCC2C(C1)O2 | C6H10O
reactant | ethane thiol | 1.05 moles, 65 g | C(C)S | C2H6S
solvent | methanol | 300 ml | CO | CH4O
product | 2-ethylmercapto cyclohexanol | C(C)SC1C(CCCC1)O | C8H16OS
